US06743789B2
3(-3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-8-methyl-4,5-dihydro-2,5,10b-triaza-benzo[e]azulene-6-one
3-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-5-(2,4-dimethoxy-benzyl)-8-methyl-4,5-dihydro-2,5,10b-triaza-benzo[e]azulene-6-one (17.5 g, 37.1 mmol) was suspended in CH2Cl2 (100 mL), cooled in ice, and diluted slowly with trifluoroacetic acid (85.2 mL). The resulting solution was treated at 5° C. with trifluoromethanesulfonic acid (4.9 mL, 55.7 mmol). The red solution was stirred at room temperature for 4 h. The mixture was then evaporated and dissolved in CH2Cl2 (100 mL), washed with sodium hydrogen carbonate (10%, 2×50 mL) and the organic layer was dried (Na2SO4) and evaporated. Digestion in EtOAc (100 mL) followed by the slow addition of hexane (100 mL). The solid obtained was washed twice with EtOAc: Hexane (1:1, 2×20 mL). Yield: 9.3 g (78%) m/z 321 (M).

reactant | 3-(3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-5-(2,4-dimethoxy-benzyl)-8-methyl-4,5-dihydro-2,5,10b-triaza-benzo[e]azulene-6-one | 37.1 mmol, 17.5 g | C1(CC1)C1=NOC(=N1)C=1N=CN2C3=C(C(N(CC12)CC1=C(C=C(C=C1)OC)OC)=O)C=C(C=C3)C | C26H25N5O4
reactant | trifluoromethanesulfonic acid | 55.7 mmol, 4.9 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 85.2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3(-3-Cyclopropyl-[1,2,4]oxadiazol-5-yl)-8-methyl-4,5-dihydro-2,5,10b-triaza-benzo[e]azulene-6-one | C1(CC1)C1=NOC(=N1)C=1N=CN2C3=C(C(NCC12)=O)C=C(C=C3)C | C17H15N5O2
